US07276603B2
A mixture of 5-chloro-benzofuran-3 (2H)-one (1.68 g, 10 mmol) and (carboxymethylene)triphenylphosphorane (5.22 g, 15 mmol) was refluxed in toluene (100 ml) for 48 hrs. At the end, reaction mixture was concentrated and loaded over silica-gel column. The column was eluted with hexane (500 ml) and then with 25% ethyl acetate. The product, ethyl(5-chloro-1-benzofuran-3-yl)acetate, was obtained as a white oil. Yield: 1.8 g (75%); (M+H): 239.

reactant | 5-chloro-benzofuran-3 (2H)-one | 10 mmol, 1.68 g | ClC=1C=CC2=C(C(CO2)=O)C1 | C8H5ClO2
reactant | (carboxymethylene)triphenylphosphorane | 15 mmol, 5.22 g | C(=O)(O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17O2P
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl(5-chloro-1-benzofuran-3-yl)acetate | C(C)OC(CC1=COC2=C1C=C(C=C2)Cl)=O | C12H11ClO3
